US09447090B2
To 245 mg of 8-(cyclohexylmethoxy)-2-methyl-N-[(3S)-1-methylpyrrolidin-3-yl]imidazo[1,2-a]pyridine-3-carboxamide were added 12 ml of ethyl acetate and 364 μl of a 4 M hydrogen chloride/ethyl acetate solution, followed by stirring. The resulting solid was collected by filtration and dried to obtain 258 mg of 8-(cyclohexylmethoxy)-2-methyl-N-[(3S)-1-methylpyrrolidin-3-yl]imidazo[1,2-a]pyridine-3-carboxamide hydrochloride.

reactant | 8-(cyclohexylmethoxy)-2-methyl-N-[(3S)-1-methylpyrrolidin-3-yl]imidazo[1,2-a]pyridine-3-carboxamide | 245 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H]2CN(CC2)C | C21H30N4O2
reactant | hydrogen chloride ethyl acetate | 4 M | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 12 ml | C(C)(=O)OCC | C4H8O2
product | 8-(cyclohexylmethoxy)-2-methyl-N-[(3S)-1-methylpyrrolidin-3-yl]imidazo[1,2-a]pyridine-3-carboxamide hydrochloride | 258 mg | Cl.C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H]2CN(CC2)C | InChI=1S/C21H30N4O2.ClH/c1-15-19(21(26)23-17-10-12-24(2)13-17)25-11-6-9-18(20(25)22-15)27-14-16-7-4-3-5-8-16;/h6,9,11,16-17H,3-5,7-8,10,12-14H2,1-2H3,(H,23,26);1H/t17-;/m0./s1
